US06352959B1
1. 4-{[4,4-Dimethyl-8-propoxymethyl-1,1-dioxothiochroman-7-yl]-carbonyl}-5-hydroxy-1-methylpyrazole (Compound 2.17)
A solution of 0.6 g (1.84 mmol) of 4,4-dimethyl-8-propoxymethyl-1,1-dioxothiochromane-7-carboxylic acid, 0.18 g (1.84 mmol) of 1-methyl-5-hydroxypyrazole and 0.38 g (1.84 mmol) of N,N-dicyclohexylcarbodiimide in 20 ml of acetonitrile was stirred at room temperature for 12 hours. The reaction mixture was subsequently stirred into a mixture of ethyl acetate and 2% strength aqueous sodium carbonate solution, and the precipitate which formed was filtered off with suction. The organic phase of the filtrate was dried and the solvent was distilled off. The resulting residue was dissolved in 5 ml of 1,4-dioxane, 0.51 g (3.7 mmol) of potassium carbonate were added and the mixture was heated under reflux for 4 hours. After cooling, the reaction mixture was taken up in ethyl acetate/water, and the aqueous phase was adjusted to pH 3 using 2N hydrochloric acid and subsequently extracted with ethyl acetate. The extract was dried and the solvent was removed, giving a solid.

reactant | 4,4-dimethyl-8-propoxymethyl-1,1-dioxothiochromane-7-carboxylic acid | 1.84 mmol, 0.6 g | CC1(CCS(C2=C(C(=CC=C12)C(=O)O)COCCC)(=O)=O)C | C16H22O5S
reactant | 1-methyl-5-hydroxypyrazole | 1.84 mmol, 0.18 g | CN1N=CC=C1O | C4H6N2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium carbonate | 3.7 mmol, 0.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | ethyl acetate water | C(C)(=O)OCC.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-{[4,4-Dimethyl-8-propoxymethyl-1,1-dioxothiochroman-7-yl]-carbonyl}-5-hydroxy-1-methylpyrazole | CC1(CCS(C2=C(C(=CC=C12)C(=O)C=1C=NN(C1O)C)COCCC)(=O)=O)C | C20H26N2O5S
